US06436999B1
0.25 g of bis(4-fluoro-3-trifluoromethylbenzoyl)guanidine, 0.16 g of imidazole and 0.16 g of potassium carbonate are heated for 16 h in 5 ml of DMF, and after that the solvent is evaporated. Separation of the crude product by column chromatography yielded 0.12 g of bis[4-(1-imi-dazolyl)-3-trifluoromethylbenzoyl]guanidine as a colorless solid, mp 130° C., decomp., Rf (CH2Cl2/MeOH 9:1)=0.4 MS (ES): 536 (M+1) and 0.07 g of N-[4-(1-imidazolyl)-3-trifluoromethylbenzoyl]-N′-(4-fluoro-3-trifluoromethylbenzoyl)guanidine as an oil. Treatment with HClg/ether yielded 0.06 g of N-[4-(1-imidazolyl)-3-trifluoromethylbenzoyl]-N′-(4-fluoro-3-trifluoromethylbenzoyl)guanidine hydrochloride as a colorless solid, mp 217-218, decomp., Rf (CH2Cl2/MeOH 9:1)=0.53; MS (ES): 488 (M+1)

reactant | bis(4-fluoro-3-trifluoromethylbenzoyl)guanidine | 0.25 g | FC1=C(C=C(C(=O)NC(NC(C2=CC(=C(C=C2)F)C(F)(F)F)=O)=N)C=C1)C(F)(F)F | C17H9F8N3O2
reactant | imidazole | 0.16 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | bis[4-(1-imi-dazolyl)-3-trifluoromethylbenzoyl]guanidine | 0.12 g | N1(C=NC=C1)C1=C(C=C(C(=O)NC(NC(C2=CC(=C(C=C2)N2C=NC=C2)C(F)(F)F)=O)=N)C=C1)C(F)(F)F | C23H15F6N7O2
